US06265424B1
Cuprous chloride (2.9 g) was added to a solution of 3-(2-chloro-6-fluorophenyl)-5-(3-methyl-4,5-dibromothien-2-yl) 1-methyl [1,2,4] triazole in DMF and heated at 120° C. for 12 h under a nitrogen atmosphere. After cooling, HCl (1N) was added and extracted with ether (3×100 mL), washed with brine, dried (Na2SO4), filtered and concentrated to give 1.35 g of crude solid. This was chromatographed on silica gel (Hexane/EtOAc, 3:1, 2:1, 1:1) gave 3-(2-chloro-6-fluorophenyl)-5-(3-methyl-4-chlorothien-2-yl) 1-methyl [1,2,4] triazole as white solid (0.6 g, 55%) MP 117-118° C.; Anal. Calcd. For C14H10BrClFN3S: C, 49.14; H, 2.95; N, 12.28; S, 9.37. Found; C, 48.86; H, 3.03; N, 12.04; S, 9.37.

reactant | 3-(2-chloro-6-fluorophenyl)-5-(3-methyl-4,5-dibromothien-2-yl) 1-methyl [1,2,4] triazole | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C=1SC(=C(C1C)Br)Br)C | C14H9Br2ClFN3S
reactant | HCl | 1N | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2-chloro-6-fluorophenyl)-5-(3-methyl-4-chlorothien-2-yl) 1-methyl [1,2,4] triazole | 0.6 g, 55% | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C=1SC=C(C1C)Cl)C | C14H10Cl2FN3S
